US08283353B2
4′-[(4-{trans-4-[3-fluoro-2-(fluoromethyl)-2-hydroxypropoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
A mixture of 4′-{[4-(trans-4-{[2-(fluoromethyl)oxiran-2-yl]methoxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.17 g), potassium hydrogen fluoride (0.15 g), tetra-n-butylammonium dihydrogentrifluoride (0.097 g) and chlorobenzene (0.5 mL) was stirred at 120° C. for 14 hr. The precipitate was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.16 g, 87%).

reactant | 4′-{[4-(trans-4-{[2-(fluoromethyl)oxiran-2-yl]methoxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.17 g | FCC1(OC1)CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C32H34FN5O3
reactant | potassium hydrogen fluoride | 0.15 g | F.[K]
reactant | tetra-n-butylammonium dihydrogentrifluoride | 0.097 g | CCCC[N+](CCCC)(CCCC)CCCC.F.F.[F-]
solvent | chlorobenzene | 0.5 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 4′-[(4-{trans-4-[3-fluoro-2-(fluoromethyl)-2-hydroxypropoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.16 g, 87% | FCC(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)(O)CF | C32H35F2N5O3
